US07642264B2
2-Pyridin-3-yl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-(4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine (example A.2) (0.33 g, 1.0 mmol) and commercially available 3-pyridineboronic acid (0.184 g, 1.5 mmol) according to the general procedure IVb. Obtained as a light yellow solid (0.03 g, 8%). MS (ISP) 370.1 [(M+H)+]; mp 134° C.

reactant | 2-chloro-4-(4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | 1.0 mmol, 0.33 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C12H5ClF6N2
reactant | 3-pyridineboronic acid | 1.5 mmol, 0.184 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 2-Pyridin-3-yl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | N1=CC(=CC=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C17H9F6N3
